US09340547B2
a) (S)-tert-Butyl 1-oxo-1-(2-(tetrahydro-2H-pyran-4-yl carbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate
Tetrahydro-2H-pyran-4-amine (900 microl, 8.69 mmols) was added to a solution of (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate (900 mg, 2.89 mmols, preparation 109) in toluene (36 ml). A 2M solution of Trimethyl aluminium in toluene (7 ml, 14.00 mmols) was added and it was stirred at 80° C. overnight. Water (50 ml) and a 0.5M solution of sodium tartrate (25 ml) were added. It was extracted with ethylacetate. The combined organic layers were washed with water and brine. It was dried, filtered and concentrated in vacuum. The title compound was obtained (617 mg, 56%).

reactant | Tetrahydro-2H-pyran-4-amine | 8.69 mmols | O1CCC(CC1)N | C5H11NO
reactant | (S)-methyl 1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 2.89 mmols, 900 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)NN1C(=CC=C1)C(=O)OC)C | C14H21N3O5
reactant | Trimethyl aluminium | C[Al](C)C
reactant | sodium tartrate | 25 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | toluene | 36 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 14.00 mmols, 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | 50 ml | O | H2O
product | (S)-tert-Butyl 1-oxo-1-(2-(tetrahydro-2H-pyran-4-yl carbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate | O=C([C@H](C)NC(OC(C)(C)C)=O)NN1C(=CC=C1)C(NC1CCOCC1)=O | C18H28N4O5
